US07666888B2
5-(4-Nitrophenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole
The title compound was prepared from 5-(4-nitrophenyl)isoxazole-4-carboxylic acid (11.7 mg, 0.050 mmol) and pyrrolidine (4.3 mg, 0.060 mmol) as described in synthetic method A and thereafter purified, first by preparative HPLC method A and then by method B, to give a solid (13.4 mg). MS (pos) m/z 288.2 (M+H).

reactant | 5-(4-nitrophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.7 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C10H6N2O5
reactant | pyrrolidine | 0.060 mmol, 4.3 mg | N1CCCC1 | C4H9N
product | 5-(4-Nitrophenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCCC1 | C14H13N3O4
